US08877782B2
6-{[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-N-(2,2,2-trifluoro-ethyl)-nicotinamide
A solution of trimethylaluminium (2 M in toluene, 500 μL, 1.0 mmol) was added dropwise (exothermic) to a solution of 2,2,2-trifluoroethylamine (99 mg, 79 μL, 1.0 mmol) in dioxane (4 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-{[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester (85 mg, 0.25 mmol) in dioxane (3 mL) was added. The resulting mixture was then heated at 85-95° C. for 2 h and then cooled to room temperature and then poured into a sodium potassium tartrate solution and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 0:100) afforded the title compound (88 mg, 86%) which was obtained as a white solid. MS: m/e=409.1 [M+H]+.

reactant | trimethylaluminium | 1.0 mmol, 2 M, 500 μL | C[Al](C)C
reactant | 2,2,2-trifluoroethylamine | 1.0 mmol, 79 μL, 99 mg | FC(CN)(F)F | C2H4F3N
reactant | 6-{[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester | 0.25 mmol, 85 mg | COC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H16FN3O3
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-{[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-N-(2,2,2-trifluoro-ethyl)-nicotinamide | 88 mg, 86% | FC=1C=C(C=CC1)C1=NOC(=C1CNC1=NC=C(C(=O)NCC(F)(F)F)C=C1)C | C19H16F4N4O2
